US06573289B1
Production of 6-[1-Hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]naphthalen-2-yl 2,2-Dimethylpropionate
In a similar manner to that described in Example 31-(i), the reaction of 1-(6-hydroxynaphthalen-2-yl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol (1.325 g) with pivalic anhydride (0.77 ml) was carried out in pyridine to give the titled compound (0.940 g) as a colorless solid.

reactant | 1-(6-hydroxynaphthalen-2-yl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 1.325 g | OC=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H32N2O2
reactant | pivalic anhydride | 0.77 ml | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 6-[1-Hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]naphthalen-2-yl 2,2-Dimethylpropionate | 0.940 g | CC(C(=O)OC1=CC2=CC=C(C=C2C=C1)C(C(C)C)(C=1N=CNC1)O)(C)C | C22H26N2O3
